US09315521B2
To (1-ethyl-4-methyl-1H-imidazol-5-yl)methanol (754 mg, 5.4 mmol) in anhydrous dichloromethane (35 mL) was added thionyl chloride (2 mL). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated and then co-evaporated with toluene (2×15 mL). The residue was dried in vacuo, affording 5-(chloromethyl)-1-ethyl-4-methyl-1H-imidazole hydrochloride (1.0 g, 95% yield). The product was used without further purification.

reactant | (1-ethyl-4-methyl-1H-imidazol-5-yl)methanol | 5.4 mmol, 754 mg | C(C)N1C=NC(=C1CO)C | C7H12N2O
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-1-ethyl-4-methyl-1H-imidazole hydrochloride | 1.0 g, 95% yield | Cl.ClCC1=C(N=CN1CC)C | InChI=1S/C7H11ClN2.ClH/c1-3-10-5-9-6(2)7(10)4-8;/h5H,3-4H2,1-2H3;1H
